* Controlled impedance 
* Input 1 2
* Z connction 3
* Output 4 5
* Z_output = Z*V/1,2)
*
.subckt ctrl_z 1 2 3 4 5
eout 5 6 poly(2) (1,2) (3,0) 0 0 0 0 1
fcopy 0 3 vsense 1
vsense 6 4 0
r1 1 2 1G
.ends

* Controlled addmitance
* Input 1 2
* Y connction 3
* Output 4 5
* Y_output = Y*V/1,2)
*
.subckt ctrl_y 1 2 3 4 5
R1 1 2 1G
ecopy 3 6 poly(2) (1,2) (5,4) 0 0 0 0 1)
fout 5 4 vsense 1
vsense 0 6 0
.ends
